US07842688B2
c) 6-(1-Hydroxyethyl)-4-(3-methoxypropyl)-4H-benzo[1,4]oxazin-3-one
The solution of 1.0 g of 4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbaldehyde and 30 ml of tetrahydrofuran is cooled to 0° C. and admixed dropwise with 1.4 ml of methylmagnesium bromide (35% in THF). The reaction mixture is stirred at 0° C. for a further 15 minutes, subsequently quenched with saturated ammonium chloride solution (50 ml) and extracted with tert-butyl methyl ether (2×50 ml). The organic phases are washed successively with ice-water (50 ml) and brine (50 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a slightly yellowish oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.16 (3:1 EtOAc-heptane); Rt=2.96.

reactant | 4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbaldehyde | 1.0 g | COCCCN1C(COC2=C1C=C(C=C2)C=O)=O | C13H15NO4
reactant | methylmagnesium bromide | 1.4 ml | C[Mg]Br
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 6-(1-Hydroxyethyl)-4-(3-methoxypropyl)-4H-benzo[1,4]oxazin-3-one | OC(C)C=1C=CC2=C(N(C(CO2)=O)CCCOC)C1 | C14H19NO4
